US04977189
N-(Aminothioxomethyl)benzamide
To a two-liter-round-bottomed flask fitted with an overhead stirrer, addition funnel and a condenser was added 400 ml of acetone and 85.0 g (1.12 moles) of ammonium thiocyanate. To this solution was added 140.6 g (1.00 moles) of benzoyl chloride. The resultant slurry was heated at reflux for 15 minutes and then the heat was removed and 200 ml of concentrated ammonium hydroxide was added at a rate to maintain reflux. The reaction mixture was heated at reflux for an additional 15 minutes and then cooled to room temperature. This mixture was added to 6 liters of water, and the resulting precipitate was collected by filtration and washed with 2 liters of water, then air dried and recrystallized from 1.5 liters of ethanol to give 98.5 g of the desired product as a white solid, mp 170°-171° C.

reactant | ammonium thiocyanate | 1.12 moles, 85.0 g | [S-]C#N.[NH4+]
reactant | benzoyl chloride | 1.00 moles, 140.6 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | acetone | 400 ml | CC(=O)C | C3H6O
product | N-(Aminothioxomethyl)benzamide | 98.5 g | NC(NC(C1=CC=CC=C1)=O)=S | C8H8N2OS
